US07622467B2
e. Synthesis of 5-[(R)-2-(2-{4-[4-(2-amino-2-methyl-propoxy)-phenylamino]-phenyl}-ethylamino)-1-hydroxy-ethyl]-8-hydroxy-1H-quinolin-2-one 4-methyl-cinnamate
5-[(R)-2-(2-{4-[4-(2-amino-2-methyl-propoxy)-phenylamino]-phenyl}-ethylamino)-1-hydroxy-ethyl]-8-hydroxy-1H-quinolin-2-one (0.21 g) was dissolved in a mixture of tetrahydrofuran (1.2 mL) and water (1.2 mL). 4-methyl-cinnamic acid (0.07 g, predominantly trans ) was added to the stirred solution at room temperature and it dissolved. After approximately 10 min, crystallization occurred. The slurry was stirred overnight and filtered. The cake was washed with aqueous tetrahydrofuran (1:1 THF:water, 2×0.4 mL, 1×0.2 mL) to afford the title compound which was dried overnight under vacuum at 45° C. (yield: 0.207 g). 1H NMR (400 MHz, DMSO-d6; DMSO-d5 as reference at δ(ppm) 2.5). δ(ppm): 1.22 (6H) s; 2.30 (3H) s; 2.64 (2H) t J=6.6 Hz; 2.72-2.86 (4H) m; 3.74 (2H) s; 5.09 (1H) m; 6.43 (1H) d J=15.9 Hz; 6.49 (1H) d J=10.0 Hz; 6.86 (4H) m; 6.93-7.03 (5H) m; 7.06 (1H) d J=7.8 Hz; 7.17 (2H) d J=7.8 Hz; 7.34 (1H) d J=15.9 Hz; 7.45 (2H) d J=7.8 Hz; 7.75 (1H) s; 8.19 (1H) d J=10.0 Hz. The crystalline product was characterized by XRPD and DSC.

reactant | 5-[(R)-2-(2-{4-[4-(2-amino-2-methyl-propoxy)-phenylamino]-phenyl}-ethylamino)-1-hydroxy-ethyl]-8-hydroxy-1H-quinolin-2-one | 0.21 g | NC(COC1=CC=C(C=C1)NC1=CC=C(C=C1)CCNC[C@H](O)C1=C2C=CC(NC2=C(C=C1)O)=O)(C)C | C29H34N4O4
reactant | 4-methyl-cinnamic acid | CC1=CC=C(C=CC(=O)O)C=C1 | C10H10O2
solvent | tetrahydrofuran | 1.2 mL | O1CCCC1 | C4H8O
solvent | water | 1.2 mL | O | H2O
product | 5-[(R)-2-(2-{4-[4-(2-amino-2-methyl-propoxy)-phenylamino]-phenyl}-ethylamino)-1-hydroxy-ethyl]-8-hydroxy-1H-quinolin-2-one 4-methyl-cinnamate | CC1=CC=C(C=CC(=O)O)C=C1.NC(COC1=CC=C(C=C1)NC1=CC=C(C=C1)CCNC[C@H](O)C1=C2C=CC(NC2=C(C=C1)O)=O)(C)C | InChI=1S/C29H34N4O4.C10H10O2/c1-29(2,30)18-37-22-9-7-21(8-10-22)32-20-5-3-19(4-6-20)15-16-31-17-26(35)23-11-13-25(34)28-24(23)12-14-27(36)33-28;1-8-2-4-9(5-3-8)6-7-10(11)12/h3-14,26,31-32,34-35H,15-18,30H2,1-2H3,(H,33,36);2-7H,1H3,(H,11,12)/t26-;/m0./s1
